US09334263B2
A solution of tert-butyl 4-(5-benzylpyrimidin-2-yl)-3-(hydroxymethyl)piperazine-1-carboxylate (400 mg, 1.042 mmol) in 4 M HCl/dioxane (20 mL) was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure to afford (1-(5-benzylpyrimidin-2-yl)piperazin-2-yl)methanol HCl salt (294 mg, 100%). MS (ES+) C16H20N4O requires: 284, found: 285 [M+H]+.

reactant | tert-butyl 4-(5-benzylpyrimidin-2-yl)-3-(hydroxymethyl)piperazine-1-carboxylate | 1.042 mmol, 400 mg | C(C1=CC=CC=C1)C=1C=NC(=NC1)N1C(CN(CC1)C(=O)OC(C)(C)C)CO | C21H28N4O3
reactant | HCl dioxane | 4 M, 20 mL | Cl.O1CCOCC1
product | (1-(5-benzylpyrimidin-2-yl)piperazin-2-yl)methanol HCl salt | 294 mg, 100% | Cl.C(C1=CC=CC=C1)C=1C=NC(=NC1)N1C(CNCC1)CO | InChI=1S/C16H20N4O.ClH/c21-12-15-11-17-6-7-20(15)16-18-9-14(10-19-16)8-13-4-2-1-3-5-13;/h1-5,9-10,15,17,21H,6-8,11-12H2;1H
